US05006570
Step II - Preparation of N-(1-Cyclohexenylmethyl-2-pyrrolidinylmethyl)-6-chlorochroman-8-carboxamide (Compound of this Invention)
101 g of 1-cyclohexenylmethyl-2-aminomethylpyrrolidine and 200 ml of methyl ethyl ketone were introduced into a 2-liter round-bottomed flask. The contents were cooled to 5° C. and a solution of 109 g of 6-chlorochroman-8-carbonyl chloride in 500 ml of methyl ethyl ketone was added dropwise, while maintaining the temperature between 0° and 5° C.

reactant | 1-cyclohexenylmethyl-2-aminomethylpyrrolidine | 101 g | C1(=CCCCC1)CN1C(CCC1)CN | C12H22N2
reactant | 6-chlorochroman-8-carbonyl chloride | 109 g | ClC=1C=C2CCCOC2=C(C1)C(=O)Cl | C10H8Cl2O2
solvent | methyl ethyl ketone | 500 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | N-(1-Cyclohexenylmethyl-2-pyrrolidinylmethyl)-6-chlorochroman-8-carboxamide | C1(=CCCCC1)CN1C(CCC1)CNC(=O)C=1C=C(C=C2CCCOC12)Cl | C22H29ClN2O2
